US04880818
3-Chloro-8-methyl-7,8,9,10-tetrahydro-11H-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline
A mixture prepared from 3.7 g of 3-chloro-7,8,9,10-tetrahydro-11H-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline, 0.45 g of paraformaladehyde and 100 ml of formic acid was heated at 90° C. for one hour. The reaction was quenched with water and the solution was made alkaline (pH9) with a sodium hydroxide solution. The crystalline product was filtered, washed with water and purified by HPLC using dichloromethane/methanol=8:2 as an eluent. Clean fractions were combined and concentrated, and the crystalline residue was stirred in isopropanol and filtered. The yield was 2.1 g, mp=286°-287° C.

reactant | 3-chloro-7,8,9,10-tetrahydro-11H-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline | 3.7 g | ClC1=CC=C2C3=C(C=NC2=C1)NC1=C3CNCC1 | C14H12ClN3
reactant | formic acid | 100 ml | C(=O)O | CH2O2
product | 3-Chloro-8-methyl-7,8,9,10-tetrahydro-11H-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline | ClC1=CC=C2C3=C(C=NC2=C1)NC1=C3CNCC1C | C15H14ClN3
